US06489327B1
2,2-Bis[4-(1-piperazinylcarbonyloxy)phenyl]propane dihydrochloride (38)
8.3 g of 2,2-bis[4-(4-tert-butoxycarbonyl-1-piperazinylcarbonyloxy)phenyl]propane dihydrochloride are dissolved in 50 ml of abs. dioxane, and 9.5 ml of an approx. 20% solution of hydrogen chloride in dioxane are added to this solution while stirring. The mixture is stirred overnight, after which it is diluted with toluene and the precipitate is filtered off with suction. After drying in vacuo, 5.7 g of the title compound, having a m.p. of from 200° C. (decomposition), are obtained.

reactant | 2,2-bis[4-(4-tert-butoxycarbonyl-1-piperazinylcarbonyloxy)phenyl]propane dihydrochloride | 8.3 g | Cl.Cl.C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OC(=O)N1CCN(CC1)C(=O)OC(C)(C)C
reactant | hydrogen chloride | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,2-Bis[4-(1-piperazinylcarbonyloxy)phenyl]propane dihydrochloride | Cl.Cl.N1(CCNCC1)C(=O)OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OC(=O)N1CCNCC1 | InChI=1S/C25H32N4O4.2ClH/c1-25(2,19-3-7-21(8-4-19)32-23(30)28-15-11-26-12-16-28)20-5-9-22(10-6-20)33-24(31)29-17-13-27-14-18-29;;/h3-10,26-27H,11-18H2,1-2H3;2*1H
